US04605434
A solution of 4.95 g (3,5-Dichloro-2-pyridyloxy)-3,4-dinitrobenzene in 15 ml of toluene is refluxed, and 3.21 g of melted P,P-dimethyl-aminomethylphosphine oxide are added. After the initial evolution of nitrous gases has finished, the mixture is refluxed for a further 2 hours. The brown solution is subsequently concentrated by evaporation, and the residue is recrystallised from 20 ml of ethyl acetate and 100 ml of ether. There are obtained, in the form of yellow crystals, 4.9 g (84% of theory) of N-[2-nitro-5-(3,5-dichloro-2-pyridyloxy)-phenyl]-P,P-dimethyl-aminomethylphosphine oxide, m.p. 153°-155° C.

reactant | (3,5-Dichloro-2-pyridyloxy)-3,4-dinitrobenzene | 4.95 g | ClC=1C(=NC=C(C1)Cl)OC1=CC(=C(C=C1)[N+](=O)[O-])[N+](=O)[O-] | C11H5Cl2N3O5
reactant | P,P-dimethyl-aminomethylphosphine oxide | 3.21 g | CP(C)(CN)=O | C3H10NOP
solvent | toluene | 15 ml | C1(=CC=CC=C1)C | C7H8
product | N-[2-nitro-5-(3,5-dichloro-2-pyridyloxy)-phenyl]-P,P-dimethyl-aminomethylphosphine oxide | 4.9 g, 84% | [N+](=O)([O-])C1=C(C=C(C=C1)OC1=NC=C(C=C1Cl)Cl)NCP(C)(C)=O | C14H14Cl2N3O4P
